US04238396
To a solution of N-methylpyrrole (8.10 g, 0.1 mol) in ether (50 ml) was added a solution of chloral (16.21 g, 0.1 mol) in ether (50 ml). To this were added p-toluene-sulfonic acid (200 mg) and hydroquinone (5 mg). Then the mixture was refluxed for 15 hours. After adding triethylamine (5 ml), the mixture was stirred for 5 minutes. Brine (100 ml) was added and the organic layer separated. The aqueous layer was extracted with ethyl acetate, and the combined organic layers were washed with brine (100 ml). After drying over magnesium sulfate, the organic solution was filtered through a bed of activated charcoal, and concentration afforded the adduct 1-methyl-2-(2',2',2'-trichloro-1'-hydroxyethyl)pyrrole (24.1 g) as pale brown prisms.

reactant | N-methylpyrrole | 0.1 mol, 8.10 g | CN1C=CC=C1 | C5H7N
reactant | chloral | 0.1 mol, 16.21 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | Brine | 100 ml | [Cl-].[Na+].O
catalyst | p-toluene-sulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
catalyst | hydroquinone | 5 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 1-methyl-2-(2',2',2'-trichloro-1'-hydroxyethyl)pyrrole | 24.1 g | CN1C(=CC=C1)C(C(Cl)(Cl)Cl)O | C7H8Cl3NO
